US06239142B1
N-(4-Chlorobenzyl)-2-(3-hydroxy-1-propynyl)-7-isopropyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
To a suspension of N-(4-chlorobenzyl)-2-iodo-7-isopropyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide (Example No. 26) (0.717 g) in diethylamine (20 mL) is added copper iodide (0.084 g) and Pd(PPh3)2Cl2 (0.052 g) followed by addition of propargyl alcohol (0.12 mL). The reaction is stirred at rt for 18 h. The diethylamine is removed in vacuo and the resulting brown solid is purified via column chromatography (CH2Cl2:CH3OH; 98:2). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield an orange solid which is recrystallized from ethanol then methanol to yield 0.281 g (46%) of the title compound as a yellow, crystalline solid.

reactant | N-(4-chlorobenzyl)-2-iodo-7-isopropyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C(C)C)SC(=C3)I)=O)C=C1 | C18H16ClIN2O2S
reactant | propargyl alcohol | 0.12 mL | C(C#C)O | C3H4O
solvent | diethylamine | 20 mL | C(C)NCC | C4H11N
catalyst | copper iodide | 0.084 g | [Cu](I)I
catalyst | Pd(PPh3)2Cl2 | 0.052 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-Chlorobenzyl)-2-(3-hydroxy-1-propynyl)-7-isopropyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.281 g, 46% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C(C)C)SC(=C3)C#CCO)=O)C=C1 | C21H19ClN2O3S
